US05143912
A.a) A mixture of 72.9 g of methyl 11-chloro-4-oxo-3-phenyl-4H-pyrido[2,1-a]phthalazine-1-carboxylate, 112 g of potassium hydroxide and 1200 ml of methanol was heated to boiling under reflux for 46 hours under argon. The mixture was then concentrated to about 200 ml, the yellow suspension was diluted with 1000 ml of water, filtered and the aqueous phase was extracted three times with 200 ml of methylene chloride each time. The aqueous phase was acidified with 25 percent hydrochloric acid and the separated crystals were filtered off, washed with water and dried in a vacuum. There was obtained 69.7 g of 2-[2-chloro-6-cyanophenyl]-1,6-dihydro-6-oxo-5-phenylnicotinic acid as yellowish crystals with a m.p. of 279°-281° (decomposition).

reactant | methyl 11-chloro-4-oxo-3-phenyl-4H-pyrido[2,1-a]phthalazine-1-carboxylate | 72.9 g | ClC=1C=CC=C2C=NN3C(C12)=C(C=C(C3=O)C3=CC=CC=C3)C(=O)OC | C20H13ClN2O3
reactant | potassium hydroxide | 112 g | [OH-].[K+]
solvent | methanol | 1200 ml | CO | CH4O
product | 2-[2-chloro-6-cyanophenyl]-1,6-dihydro-6-oxo-5-phenylnicotinic acid | 69.7 g | ClC1=C(C(=CC=C1)C#N)C1=C(C(=O)O)C=C(C(N1)=O)C1=CC=CC=C1 | C19H11ClN2O3
